US06051712
20 mg (0.036 mmol) of tert-butyl (3'RS,4'RS)-3'-(naphthalen-2-ylmethoxy)-1-(2-phenoxy-ethyl)-1',2',3',4',5',6'-hexahydro-1H-[4,4']bipyridin-2-one-1'-carboxylate were dissolved in 3 ml of methylene chloride, treated with 40 mg (0.18 mmol) of anhydrous zinc bromide and stirred at room temperature for 3 hours. Thereupon, the reaction mixture was poured into aqueous sodium carbonate solution this was extracted with methylene chloride. The combined methylene chloride phases were dried over magnesium sulphate and concentrated, and the thus obtained residue was chromatographed on silica gel with a 9:1 mixture of methylene chloride and methanol as the eluent. Therefrom there were obtained 5.8 mg (35% of theory) of (3'RS,4'RS)-3'-(naphthalen-2-ylmethoxy)-1-(2-phenoxy-ethyl)-1',2',3',4',5',6'-hexahydro-1H-[4,4']bipyridin-2-one in the form of and amorphous, colourless solid; MS: 455 (M+H)+.

reactant | tert-butyl (3'RS,4'RS)-3'-(naphthalen-2-ylmethoxy)-1-(2-phenoxy-ethyl)-1',2',3',4',5',6'-hexahydro-1H-[4,4']bipyridin-2-one-1'-carboxylate | 0.036 mmol, 20 mg | C1=C(C=CC2=CC=CC=C12)COC1CN(CCC1C1=CC(N(C=C1)CCOC1=CC=CC=C1)=O)C(=O)OC(C)(C)C | C34H38N2O5
reactant | sodium carbonate | C([O-])([O-])=O.[Na+].[Na+]
solvent | methylene chloride | 3 ml | C(Cl)Cl | CH2Cl2
catalyst | zinc bromide | 0.18 mmol, 40 mg | [Br-].[Zn+2].[Br-]
product | (3'RS,4'RS)-3'-(naphthalen-2-ylmethoxy)-1-(2-phenoxy-ethyl)-1',2',3',4',5',6'-hexahydro-1H-[4,4']bipyridin-2-one | 5.8 mg, 35% | C1=C(C=CC2=CC=CC=C12)COC1CNCCC1C1=CC(N(C=C1)CCOC1=CC=CC=C1)=O | C29H30N2O3
